US08975254B2
f) (S)-5-acetyl-N-(1-(3-(4-cyano-3-iodophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide
Sodium nitrite (50 mg, 0.73 mmol) in 1 ml of water was added slowly to a solution of (S)-3-acetyl-N-(1-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide (250 mg, 0.66 mmol) in water (2 ml), sulfuric acid (71 μl, 1.33 mmol) and MeCN (3 ml) at 0° C. After 15 min potassium iodide (0.22 g, 1.32 mmol) in 1 ml of water was added. Reaction mixture was stirred at RT for 2 h and then poured into 10 ml of water. Thus resulting precipitate was filtered and washed with 10% sodium bisulfite solution and water. Crude product was purified by CombiFlash (column: silica, eluent: 3-10% MeOH in DCM) to yield 75 mg (23%) of the title compound. 1H-NMR (400 MHz; MeOD): δ 1.27 (d, 3H), 2.55 (s, 3H), 4.35 (m, 1H), 4.39 (m, 1H), 4.57 (m, 1H), 6.63 (d, 1H), 7.28 (br s, 1H), 7.42 (s, 1H), 7.57 (d, 1H), 7.66 (d, 1H), 7.93 (br s, 1H), 8.35 (s, 1H).

reactant | Sodium nitrite | 0.73 mmol, 50 mg | N(=O)[O-].[Na+]
reactant | (S)-3-acetyl-N-(1-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 0.66 mmol, 250 mg | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)[N+](=O)[O-])C | C19H17N7O4
reactant | sulfuric acid | 1.33 mmol, 71 μl | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide | 1.32 mmol, 0.22 g | [I-].[K+]
solvent | water | 1 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 1 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | MeCN | 3 ml | CC#N | C2H3N
product | (S)-5-acetyl-N-(1-(3-(4-cyano-3-iodophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide | 75 mg, 23% | C(C)(=O)C1=CC(=NN1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)I)C | C19H17IN6O2
